**************************************************
* Manufacturer: 		Wurth Elektronik
* Kinds:			 SMD Common Mode Line Filter
* Matchcode: 		WE-SL
* Library Type:		LTspice
* Version: 		rev18a
* Created/modified by:	Fredo Huang
* Date and Time   :		2018-01-03
* Team: 			eiSos EDA Service
* Contact: 		libraries@we-online.com
**************************************************
.subckt 1310_744202_1m 1 2 3 4
L5 N010 N009 {L3} Rpar={Rs3}
C1 3 N001 {C1} Rser={R2}
L1 3 N011 {L1} Rpar={Rs1}
L3 N011 N010 {L2} Rpar={Rs2}
L6 N015 N014 {L3} Rpar={Rs3}
C2 4 N013 {C1} Rser={R2}
L2 4 N016 {L1} Rpar={Rs1}
L4 N016 N015 {L2} Rpar={Rs2}
L8 N014 N013 {L4} Rpar={Rs4}
L7 N009 N001 {L4} Rpar={Rs4}
L9 N001 N008 {L5} Rpar={Rs5} Cpar={C2}
L10 N013 N012 {L5} Rpar={Rs5} Cpar={C2}
R1 N002 1 {Rdc}
R2 N012 2 {Rdc}
O1 N002 0 N003 0 mysl1
R4 N003 N002 {dR4}
O2 N003 0 N004 0 mysl2
R5 N004 N003 {dR5}
O3 N004 0 N005 0 mysl2
R6 N005 N004 {dR5}
O4 N005 0 N006 0 mysl1
R7 N006 N005 {dR4}
O5 N006 0 N007 0 mysl1
R8 N007 N006 {dR4}
O6 N007 0 N008 0 mysl2
R9 N008 N007 {dR5}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
.param L1=341.04u
.param L2=448.57u
.param L3=136.82u
.param L4=49.76u
.param L5=90n
.param C1=2.9p
.param C2=1.5p
.param Rs1=4964.13
.param Rs2=2973.53
.param Rs3=2668.71
.param Rs4=965.96
.param Rs5=690
.param R2=1.41
.param Rdc=0.5
.param L=65mm
.param dL3=720n
.param dC3=56p
.param dR3=0.6
.param dR4=230
.model mysl1 LTRA(len={L} R={dR3} L={dL3} C={dC3})
.model mysl2 LTRA(len={L100} R={dR5} L={dL4} C={dC4})
.param L100=65mm
.param dL4=19000n
.param dC4=19p
.param dR5=0.01
.param dR6=200k
.backanno
.ends 1310_744202_1m
*********
.subckt 1310_744203_0.5m 1 2 3 4
L5 N011 N010 {L3} Rpar={Rs3}
C1 3 N001 {C1} Rser={R2}
L1 3 N012 {L1} Rpar={Rs1}
L3 N012 N011 {L2} Rpar={Rs2}
L6 N015 N014 {L3} Rpar={Rs3}
C2 4 N013 {C1} Rser={R2}
L2 4 N016 {L1} Rpar={Rs1}
L4 N016 N015 {L2} Rpar={Rs2}
L8 N014 N013 {L4} Rpar={Rs4}
L7 N010 N001 {L4} Rpar={Rs4}
L9 N001 N009 {L5} Rpar={Rs5} Cpar={C2}
L10 N013 N018 {L5} Rpar={Rs5} Cpar={C2}
L11 N009 N008 {L6} Rpar={Rs6} Cpar={C3}
L12 N018 N017 {L6} Rpar={Rs6} Cpar={C3}
R2 N002 1 {Rdc}
R3 N017 2 {Rdc}
O1 N002 0 N003 0 mysl1
R4 N003 N002 {dR4}
O2 N003 0 N004 0 mysl2
R5 N004 N003 {dR5}
O3 N004 0 N005 0 mysl2
R6 N005 N004 {dR5}
O4 N005 0 N006 0 mysl1
R7 N006 N005 {dR4}
O5 N006 0 N007 0 mysl1
R8 N007 N006 {dR4}
O6 N007 0 N008 0 mysl2
R9 N008 N007 {dR5}
.param L1=370e-006
.param L2=506e-009
.param L3=1.158e-006
.param L4=681e-009
.param L5 =3.48e-006
.param L6 =0.0012u
.param C1=1.69e-012
.param C2=3.17e-012
.param C3=2.75e-012
.param Rs1=5950
.param Rs2=14800
.param Rs3=4400
.param Rs4=50
.param Rs5=960
.param Rs6=4765
 .param R2=99
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K6 L11 L12 1
.param Rdc=0.36
.param L=65mm
.param dL3=630n
.param dC3=20p
.param dR3=0.36
.param dR4=340
.model mysl1 LTRA(len={L} R={dR3} L={dL3} C={dC3})
.model mysl2 LTRA(len={L100} R={dR5} L={dL4} C={dC4})
.param L100=65mm
.param dL4=8000n
.param dC4=19p
.param dR5=0.01
.param dR6=0.350
.backanno
.ends 1310_744203_0.5m
*********
.subckt 1310_744204_0.25m 1 2 3 4
L5 N011 N010 {L3} Rpar={Rs3}
C3 3 N001 {C1} Rser={R2}
L0 3 N013 {L0} Rpar={Rs1}
L3 N012 N011 {L2} Rpar={Rs2}
L6 N016 N015 {L3} Rpar={Rs3}
C4 4 N014 {C1} Rser={R2}
L 4 N018 {L0} Rpar={Rs1}
L4 N017 N016 {L2} Rpar={Rs2}
L8 N015 N014 {L4} Rpar={Rs4}
L7 N010 N001 {L4} Rpar={Rs4}
L9 N001 N009 {L5} Rpar={Rs5} Cpar={C2}
L10 N014 N020 {L5} Rpar={Rs5} Cpar={C2}
L11 N009 N008 {L6} Rpar={Rs6} Cpar={C3}
L12 N020 N019 {L6} Rpar={Rs6} Cpar={C3}
R1 N002 1 {Rdc}
R2 N019 2 {Rdc}
O1 N002 0 N003 0 mysl1
R4 N003 N002 {dR4}
O2 N003 0 N004 0 mysl2
R5 N004 N003 {dR5}
O3 N004 0 N005 0 mysl2
R6 N005 N004 {dR5}
O4 N005 0 N006 0 mysl1
R7 N006 N005 {dR4}
O5 N006 0 N007 0 mysl1
R8 N007 N006 {dR4}
O6 N007 0 N008 0 mysl2
R9 N008 N007 {dR5}
L1 N013 N012 {L1} Rpar={Rs1}
L2 N018 N017 {L1} Rpar={Rs1}
.param L0=25e-006
.param L1=0.9e-009
.param L2=142e-06
.param L3=5.67e-006
.param L4=1e-006
.param L5 =2.8e-006
.param L6 =4.5n
.param C1=2.7e-012
.param C2=1.75e-012
.param C3=7.59e-013
.param Rs1=1100
.param Rs2=1925
.param Rs3=73
.param Rs4=1461
.param Rs5=1083
.param Rs6=1021
.param Rs0=849
.param R2=90
K3 L5 L6 1
K2 L3 L4 1
K0 L0 L 1
K4 L7 L8 1
K6 L9  L10 1
K7 L11 L12 1
* differential mode
K1 L1 L2 1
.model mysl2 LTRA(len={L1} R={dR5} L={dL4} C={dC4})
.param L1=65mm
.param dL4=8000n
.param dC4=15.5p
.param dR5=0.01
.param dR6=10
.param Rdc=0.36
.param L=65mm
.param dL3=370n
.param dC3=26p
.param dR3=0.36
.param dR4=500
.model mysl1 LTRA(len={L} R={dR3} L={dL3} C={dC3})
.backanno
.ends 1310_744204_0.25m
*********
.subckt 1310_744205_0.1m 1 2 3 4
C1 N004 N003 {C1}
L2 3 N010 {L1}
R2 3 N010 {Rs1}
C2 N016 N013 {C1}
L3 4 N014 {L1}
R12 3 N004 {R2}
R13 4 N016 {R2}
L9 N014 N013 {L2}
R8 N010 N003 {Rs4}
L8 N010 N003 {L2}
R16 N001 N009 {Rdc}
R17 N011 N015 {Rdc}
R30 4 N014 {Rs1}
R9 N014 N013 {Rs4}
R10 N003 N002 {Rs5}
R11 N013 N012 {Rs5}
C3 N003 N002 {C2}
C4 N013 N012 {C2}
L10 N003 N002 {L3}
L11 N013 N012 {L3}
R19 N002 N001 {Rs6}
R20 N012 N011 {Rs6}
C5 N002 N001 {C3}
C6 N012 N011 {C3}
L12 N002 N001 {L4}
L13 N012 N011 {L4}
R1 N005 1 {Rdc}
R3 N015 2 {Rdc}
O1 N005 0 N006 0 mysl1
R4 N006 N005 {dR4}
O2 N006 0 N007 0 mysl2
R5 N007 N006 {dR5}
O3 N007 0 N008 0 mysl2
R6 N008 N007 {dR5}
O4 N008 0 N009 0 mysl1
R7 N009 N008 {dR4}
K1 L2 L3 1
K2 L8 L9 1
.param L1=70u
.param L2=20u
.param L3=10n
.param L4=10n
.param C1=650.06f
.param C2=90.02f
.param C3=10.02f
.param Rs1=1100
.param Rs4=15
.param Rs5=420
.param Rs6=5
.param R2=4.41
K3 L10  L11 1
K4 L12 L13 1
.param Rdc=0.10
.param L=65mm
.param dL3=840n
.param dC3=18p
.param dR3=0.2
.param dR4=800
.model mysl1 LTRA(len={L} R={dR3} L={dL3} C={dC3})
.model mysl2 LTRA(len={L100} R={dR5} L={dL4} C={dC4})
.param L100=65mm
.param dL4=2400n
.param dC4=9p
.param dR5=0.01
.param dR6=250
.backanno
.ends 1310_744205_0.1m
*********
.subckt 1310_744206_60u 1 2 3 4
L5 N011 N010 {L3} Rpar={Rs3}
C1 3 N001 {C1} Rser={R2}
L1 3 N012 {L1} Rpar={Rs1}
L3 N012 N011 {L2} Rpar={Rs2}
L6 N017 N016 {L3} Rpar={Rs3}
C2 4 N015 {C1} Rser={R2}
L2 4 N018 {L1} Rpar={Rs1}
L4 N018 N017 {L2} Rpar={Rs2}
L8 N016 N015 {L4} Rpar={Rs4}
L7 N010 N001 {L4} Rpar={Rs4}
L9 N001 N009 {L5} Rpar={R5} Cpar={C5}
L10 N015 N014 {L5} Rpar={R5} Cpar={C5}
L11 N009 N008 {L6} Rpar={R6} Cpar={C6}
L12 N014 N013 {L6} Rpar={R6} Cpar={C6}
R1 N002 1 {Rdc}
R2 N013 2 {Rdc}
O1 N002 0 N003 0 mysl1
R4 N003 N002 {dR4}
O2 N003 0 N004 0 mysl2
R5 N004 N003 {dR5}
O3 N004 0 N005 0 mysl2
R6 N005 N004 {dR5}
O4 N005 0 N006 0 mysl1
R7 N006 N005 {dR4}
O5 N006 0 N007 0 mysl1
R8 N007 N006 {dR4}
O6 N007 0 N008 0 mysl2
R9 N008 N007 {dR5}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9 L10 1
K6 L11 L12 1
.param L1=59e-006
.param L2=897e-009
.param L3=8.39e-006
.param L4=4.64e-006
.param L5 =3.685e-009
.param L6 =0.0012e-006
.param C1=468e-015
.param C5=185e-015
.param C6=328e-015
.param Rs1=2134
.param Rs2=2105
.param Rs3=1710
.param Rs4=669
.param R5=677
.param R6=2919
.param R2=0.05
* differential mode
.param Rdc=0.16
.param L=65mm
.param dL3=330n
.param dC3=34p
.param dR3=0.16
.param dR4=390
.model mysl1 LTRA(len={L} R={dR3} L={dL3} C={dC3})
.model mysl2 LTRA(len={L100} R={dR5} L={dL4} C={dC4})
.param L100=65mm
.param dL4=8000n
.param dC4=19p
.param dR5=0.01
.param dR6=0.350
.backanno
.ends 1310_744206_60u
*********
.subckt 1310_744207_35u 1 2 3 4
R17 N002 1 {Rdc}
R18 N015 2 {Rdc}
L5 N009 N008 {L3} Rpar={Rs3}
C3 3 N001 {C1} Rser={R2}
L1 3 N010 {L1} Rpar={Rs1}
L3 N010 N009 {L2} Rpar={Rs2}
L6 N013 N012 {L3} Rpar={Rs3}
C4 4 N011 {C1} Rser={R2}
L2 4 N014 {L1} Rpar={Rs1}
L4 N014 N013 {L2} Rpar={Rs2}
L8 N012 N011 {L4} Rpar={Rs4}
L7 N008 N001 {L4} Rpar={Rs4}
L9 N001 N007 {L5} Rpar={Rs5} Cpar={C2}
L10 N011 N016 {L5} Rpar={Rs5} Cpar={C2}
L11 N007 N006 {L6} Rpar={Rs6} Cpar={C3}
L12 N016 N015 {L6} Rpar={Rs6} Cpar={C3}
O1 N002 0 N003 0 mysl1
R3 N003 N002 {dR4}
O2 N003 0 N004 0 mysl2
R4 N004 N003 {dR5}
O3 N004 0 N005 0 mysl2
R5 N005 N004 {dR5}
O4 N005 0 N006 0 mysl1
R6 N006 N005 {dR4}
.param L1=37e-006
.param L2=300e-009
.param L3=5.66e-006
.param L4=3.16e-006
.param L5 =3.17e-009
.param L6 =0.0012u
.param C1=422e-015
.param C2=384e-015
.param C3=4e-014
.param Rs1=1070
.param Rs2=280
.param Rs3=1095
.param Rs4=282
.param Rs5=1315
.param Rs6=2156
 .param R2=1.715
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K6 L11 L12 1
.param Rdc=0.10
.param L=65mm
.param dL3=530n
.param dC3=46p
.param dR3=0.1
.param dR4=570
.model mysl1 LTRA(len={L} R={dR3} L={dL3} C={dC3})
.model mysl2 LTRA(len={L100} R={dR5} L={dL4} C={dC4})
.param L100=65mm
.param dL4=8000n
.param dC4=9p
.param dR5=0.01
.param dR6=900
.backanno
.ends 1310_744207_35u
